Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Augmentin
 
Attending: ___
 
Chief Complaint:
Symptomatic fibroid uterus, adenomyosis
 
Major Surgical or Invasive Procedure:
Examination under anesthesia, Removal of Mirena intrauterine 
device, Total laparoscopic hysterectomy with bilateral 
salpingectomy,  I and D of right ovarian cyst, Cystoscopy.
 
History of Present Illness:
This is a ___ gravida 2,
para ___, last menstrual period ___ who has a history of
abnormal bleeding in the face of a small fibroid uterus and
probable adenomyosis.

Briefly, on ___, patient had an ultrasound, which showed a
uterus that measured 11.4 x 5.0 x 5.5 cm.  Myometrium was
heterogeneous in appearance, which may be due to adenomyosis. 
There was a posterior located intramural fibroid, which measured
1.5 x 1.2 x 1.4 cm.  The endometrium was homogenous and measured
4 mm.  There was a simple cyst in the right ovary that measured
2.6 x 3.0 x 1.7 cm.  The ovaries were otherwise normal.  There
was no free fluid.  

The patient had an endometrial biopsy on ___, which showed
benign endometrium and changes consistent with oral 
contraceptive
effect.  

Her last Pap was on ___ and was negative for intraepithelial
lesion or neoplasia and she tested negative for the high-risk
HPV.  

The patient was given options for treatment modalities for
abnormal uterine bleeding and on ___, she had replaced the
Mirena IUD and this went without incident.  She continues to 
have
abnormal bleeding.  Ultrasound was repeated on ___ which
showed a uterus that measured 10.0 x 4.7 x 4.6 cm.  The
endometrium was homogenous and measured 6 mm as on prior exam. 
The myometrium appeared heterogeneous consistent with 
adenomyosis
and previously identified posterior intramural fibroid measured
2.6 x 1.7 x 2.2 cm, not appreciably changed in comparison to her
exam on ___. The IUD was visualized and was in appropriate
position.  The ovaries were normal and there was no free fluid.

Unfortunately, the patient continues to have prolonged uterine
bleeding. In ___, she bled for 14 days, ___ days, ___ days and this prolonged bleeding has continued.  The
patient presents today desiring definitive therapy in the form 
of
hysterectomy.  We discussed the benefits versus the risks of
major surgery and the patient would like to proceed.
 
Past Medical History:
OB/GYN HISTORY:  As above, in addition Menarche at 12.  When she
is on birth control pill, she cycles every 28 days.  She has
never had an abnormal Pap smear.  She is currently sexually
active with her partner of ___ years.  First intercourse at age
___.  She denies any sexually transmitted infections.  She has 
had
two pregnancies, one delivery at term and one termination of
pregnancy without complications.  She has had ovarian cysts in
the past.

MEDICAL HISTORY:  Rosacea, seborrheic keratoses, headaches with
aura, depression.

SURGICAL HISTORY: Non-contributory
 
Social History:
___
Family History:
Mother with hypertension and
hypercholesterolemia.  Father type 2 diabetes, lung cancer,
bladder cancer, maternal grandmother unknown.  Maternal aunt 
died
of an aneurysm.  Paternal grandmother, hypertension.  Paternal
grandfather, history unknown.
 
Physical Exam:
Physical exam on day of discharge: 

Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
None
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after undergoing examination under anesthesia, removal 
of Mirena intrauterine device, total laparoscopic hysterectomy 
with bilateral salpingectomy, I and D of right ovarian cyst, and 
cystoscopy. Please see the operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid.
On post-operative day 1, her urine output was adequate so her 
foley was removed and she voided spontaneously. Her diet was 
advanced without difficulty and she was transitioned to PO 
oxycodone, ibuprofen, and acetaminophen.

By post-operative day #1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Venlafaxine XR 150 mg PO DAILY 
3. naratriptan 1 mg oral daily prn headache 
4. metroNIDAZOLE 0.75 % topical BID 

 
Discharge Medications:
1. Atenolol 50 mg PO DAILY 
2. metroNIDAZOLE 0.75 % topical BID 
3. naratriptan 1 mg oral daily prn headache 
4. Venlafaxine XR 150 mg PO DAILY 
5. Acetaminophen ___ mg PO Q6H:PRN pain 
do not take more than 4000 mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*1
6. Docusate Sodium 100 mg PO BID 
take if using narcotics for pain
 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*50 Capsule Refills:*2
7. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*0
8. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
do not drive while taking, use with stool softener 
RX *oxycodone [Oxaydo] 5 mg ___ tablet(s) by mouth every 4 hours 
Disp #*40 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abnormal uterine bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) until 
cleared by Dr. ___
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___